datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[C:24]([H:25])([H:26])[H:27]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:9])[H:10].[H:8][C:24]([H:25])([H:26])[H:27],46.48424
[C:0]([C:1]1([H:15])[C:2]([H:16])([H:17])[C:3]([H:18])([H:19])[C:4]([H:20])([H:21])[C:5]([H:22])([H:23])[C:6]12[C:7]([H:24])[C:8]([H:25])=[C:9]([H:26])[C:10]([H:27])=[C:11]2[H:28])([H:12])([H:13])[H:14]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([c:6]1[c:7]([H:24])[c:8]([H:25])[c:9]([H:26])[c:10]([H:27])[c:11]1[H:28])[H:15])([H:12])([H:13])[H:14],90.7394
[C:0]([C:1]([C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])[H:8])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2]1[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:8])[H:9])([H:5])([H:6])[H:7],194.974
[C:0](=[C:1]=[O:2])([H:3])[H:4].[O:5]>>[C:0](=[C:1]=[O:2])[H:4].[H:3][O:5],33.472
[C:0]([C:1]([O:2][O:3][H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[O:10][H:11]>>[C:0]([C:1]([O:2][O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][O:10][H:11],-1.828408
[C:0]([O:1][O:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[C:10]([O:11])([H:12])([H:13])[H:14]>>[C:0]([H:4])([H:5])[H:6].[O:1]([O:2][C:3]([H:7])([H:8])[H:9])[O:11][C:10]([H:12])([H:13])[H:14],66.9829
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[H:8]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[H:8])[H:6],14.644
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[S:11][H:18])[H:14])([H:12])[H:13]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:9]([C:8](=[C:7]([H:12])[H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[S:11][H:18],108.115
[C:0](#[C:1][H:3])[H:2].[C:4](=[C:5]([C:6]([C:7](=[C:8]([H:14])[H:15])[H:13])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1][H:3])([H:2])[C:6]([C:5](=[C:4]([H:9])[H:10])[H:11])([C:7](=[C:8]([H:14])[H:15])[H:13])[H:12],73.6802
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5](=[C:6]([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])[H:16])([H:14])[H:15])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]([H:16])[C:6]1([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])[H:10],169.536
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])([H:9])[C:17]([C:16]([H:24])([H:25])[H:26])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])[H:8])([H:6])[H:7],40.2919
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11](=[C:12][C:13]([H:16])([H:17])[H:18])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[H:7])([H:6])[C:12](=[C:11]([H:14])[H:15])[C:13]([H:16])([H:17])[H:18])[H:5],8.95376
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12]([C:13]([H:24])([H:25])[H:26])([c:14]1[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]1[H:31])[H:23])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:23])[H:6])([H:4])[H:5].[C:11]([C:12]([C:13]([H:24])([H:25])[H:26])[c:14]1[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]1[H:31])([H:20])([H:21])[H:22],44.7688
[C:0]([C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:17])([H:18])[H:19])=[O:7])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2](=[C:3]([H:15])[H:16])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]=[C:5]([C:6]([H:17])([H:18])[H:19])[O:7][H:13],192.668
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[C:5]([C:6](=[C:7]([C:8]([C:9](=[C:10]([H:22])[H:23])[H:21])[H:20])[H:19])[H:18])([H:16])[H:17])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([C:4]([H:13])([H:14])[H:15])[C:5]([H:16])([H:17])[C:6]([H:18])=[C:7]([H:19])[C:8]1([C:9](=[C:10]([H:22])[H:23])[H:21])[H:20])[H:11],128.742
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[S:6]([C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])[H:15])[H:14]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:7]([S:6][H:14])([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])[H:15],62.3416
[C:0](=[S:1])([H:2])[H:3].[S:4][S:5][H:6]>>[C:0]([S:1][S:4][S:5][H:6])([H:2])[H:3],111.838
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]([C:12](=[C:13]([H:19])[H:20])[H:18])[H:17])[H:16])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])([H:4])[C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12](=[C:13]([H:19])[H:20])[H:18])[H:17],67.5716
